US07619092B2
In 17 ml of ethanol was dissolved 1.73 g of trans-1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-propanoylaminopiperidine, and added thereto was 280 mg of palladium-carbon (moisture content of 50.9%), and the mixture was stirred under hydrogen atmosphere at room temperature for 3 hours. The reaction mixture was filtered through Celite, and ethanol was removed by distillation. The residue was purified by NH silica gel column chromatography (chloroform:hexane:ethyl acetate=5:5:2), to give 772 mg of trans-2-(4-fluoro-2-methylphenyl)-4-propanoylaminopiperidine as shown in Table 129 below.

reactant | trans-1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-propanoylaminopiperidine | 1.73 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@@H](CC1)NC(CC)=O)C1=C(C=C(C=C1)F)C | C23H27FN2O3
solvent | ethanol | 17 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 280 mg | [C].[Pd]
product | trans-2-(4-fluoro-2-methylphenyl)-4-propanoylaminopiperidine | 772 mg | FC1=CC(=C(C=C1)[C@@H]1NCC[C@H](C1)NC(CC)=O)C | C15H21FN2O
